US05021481
1-alpha-Methylbenzyloxy-2,2,6,6-tetramethylpiperidin-4-one
A mixture of 40.0 grams (235 mmol) of 1-oxyl-2,2,6,6-tetramethylpiperidin-4-one, 60.5 grams (470 mmol) of 70% aqueous tert-butyl hydroperoxide, 3.0 grams of molybdenum trioxide, and 200 ml of ethylbenzene is heated at reflux for four hours. Water is collected in a Dean-Stark trap. Solids are removed by filtration, and the filtrate is concentrated under reduced pressure. Kugelrohr distillation of the crude product, followed by recrystallization from methanol, affords 42.8 grams (67% yield) of the title compound as a white solid melting at 77-80° C.

reactant | 1-oxyl-2,2,6,6-tetramethylpiperidin-4-one | 235 mmol, 40.0 grams | ON1C(CC(CC1(C)C)=O)(C)C | C9H17NO2
reactant | tert-butyl hydroperoxide | 470 mmol, 60.5 grams | C(C)(C)(C)OO | C4H10O2
reactant | ethylbenzene | 200 ml | C(C)C1=CC=CC=C1 | C8H10
catalyst | molybdenum trioxide | 3.0 grams | [Mo](=O)(=O)=O
product | 1-alpha-Methylbenzyloxy-2,2,6,6-tetramethylpiperidin-4-one | 42.8 grams, 67% yield | CC(C1=CC=CC=C1)ON1C(CC(CC1(C)C)=O)(C)C | C17H25NO2
